US04851526
N-[2-[(4-Nitrophenyl)aminomethyl]cyclohexyl]-N-(phenylmethyl)benzenemethanamine
In a manner similar to Preparation 2, react 1-fluoro-4-nitrobenzene with N-[2-(aminomethyl)cyclohexyl]-N-(phenylmethyl)benzenemethanamine to obtain the title compound.

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-[2-(aminomethyl)cyclohexyl]-N-(phenylmethyl)benzenemethanamine | NCC1C(CCCC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H28N2
product | N-[2-[(4-Nitrophenyl)aminomethyl]cyclohexyl]-N-(phenylmethyl)benzenemethanamine | [N+](=O)([O-])C1=CC=C(C=C1)NCC1C(CCCC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C27H31N3O2
